US08975254B2
(R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile was prepared using the method of Example 99 starting from 2-chloro-3-methyl-4-(1H-pyrazol-3-yl)benzonitrile (2.0 g, 9.19 mmol) and (R)-tert-butyl 1-hydroxybutan-2-ylcarbamate (3.48 g, 18.38 mmol). Yield 56.5%. m/z [288.8+1].

reactant | 2-chloro-3-methyl-4-(1H-pyrazol-3-yl)benzonitrile | 9.19 mmol, 2.0 g | ClC1=C(C#N)C=CC(=C1C)C1=NNC=C1 | C11H8ClN3
reactant | (R)-tert-butyl 1-hydroxybutan-2-ylcarbamate | 18.38 mmol, 3.48 g | OC[C@@H](CC)NC(OC(C)(C)C)=O | C9H19NO3
product | (R)-4-(1-(2-aminobutyl)-1H-pyrazol-3-yl)-2-chloro-3-methylbenzonitrile | Yield 56.5% | N[C@@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)C)CC | C15H17ClN4
